US06740647B1
5-Aminomethyl-3-chlorothiophene-2-carbonitrile Hydrochloride
This compound was synthesized as described for 5-aminomethyl-3-methylthiophene-2-carbonitrile, the 3-chloro-2-cyanothiophene employed having been prepared by dehydrating 3-chlorothiophene-2-carboxamide with trifluoroacetic anhydride.

reactant | 5-aminomethyl-3-methylthiophene-2-carbonitrile | NCC1=CC(=C(S1)C#N)C | C7H8N2S
reactant | 3-chloro-2-cyanothiophene | ClC1=C(SC=C1)C#N | C5H2ClNS
reactant | 3-chlorothiophene-2-carboxamide | ClC1=C(SC=C1)C(=O)N | C5H4ClNOS
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 5-Aminomethyl-3-chlorothiophene-2-carbonitrile Hydrochloride | Cl.NCC1=CC(=C(S1)C#N)Cl | InChI=1S/C6H5ClN2S.ClH/c7-5-1-4(2-8)10-6(5)3-9;/h1H,2,8H2;1H
